### PR TITLE
[Merged by Bors] - feat: smooth Riemannian bundles

### PR DESCRIPTION
**Pull request by sgouezel**
Given a vector bundle over a manifold whose fibers are all endowed with a scalar product, we
say that this bundle is Riemannian if the scalar product depends smoothly on the base point.

We introduce a typeclass `[IsContMDiffRiemannianBundle IB n F E]` registering this property.
Under this assumption, we show that the scalar product of two smooth maps into the same fibers of
the bundle is a smooth function.

If the fibers of a bundle `E` have a preexisting topology (like the tangent bundle), one can not
assume additionally `[∀ b, InnerProductSpace ℝ (E b)]` as this would create diamonds. Instead,
use `[RiemannianBundle E]`, which endows the fibers with a scalar product while ensuring that
there is no diamond. We provide a constructor for `[RiemannianBundle E]` from a smooth family
of metrics, which registers automatically `[IsContMDiffRiemannianBundle IB n F E]`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean [hunk 1]
```diff
@@ -0,0 +1,200 @@
...
+
+We introduce a typeclass `[IsContMDiffRiemannianBundle IB n F E]` registering this property.
+Under this assumption, we show that the scalar product of two smooth maps into the same fibers of
+the bundle is a smooth function.
+
+If the fibers of a bundle `E` have a preexisting topology (like the tangent bundle), one can not
+assume additionally `[∀ b, InnerProductSpace ℝ (E b)]` as this would create diamonds. Instead,
+use `[RiemannianBundle E]`, which endows the fibers with a scalar product while ensuring that
+there is no diamond. We provide a constructor for `[RiemannianBundle E]` from a smooth family
+of metrics, which registers automatically `[IsContMDiffRiemannianBundle IB n F E]`
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean]: Could you add a code block saying how to spell: “Let E be a smooth vector bundle equipped by a Riemannian structure over a smooth manifold M” and another one saying “Let M be a Riemannian manifold”?

File: Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean [hunk 2]
```diff
@@ -0,0 +1,200 @@
...
+  {b : M → B} {v w : ∀ x, E (b x)} {s : Set M} {x : M}
+
+/-- Given two smooth maps into the same fibers of a Riemannian bundle,
+their scalar product is smooth. -/
+lemma ContMDiffWithinAt.inner_bundle
+    (hv : ContMDiffWithinAt IM (IB.prod 𝓘(ℝ, F)) n (fun m ↦ (v m : TotalSpace F E)) s x)
+    (hw : ContMDiffWithinAt IM (IB.prod 𝓘(ℝ, F)) n (fun m ↦ (w m : TotalSpace F E)) s x) :
+    ContMDiffWithinAt IM 𝓘(ℝ) n (fun m ↦ ⟪v m, w m⟫) s x := by
+  rcases h.exists_contMDiff with ⟨g, g_smooth, hg⟩
+  have hf : ContMDiffWithinAt IM IB n b s x := by
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean]: This name looks like copy-pasta.

File: Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean [hunk 3]
```diff
@@ -0,0 +1,200 @@
...
+
+/-- A smooth Riemannian metric defines in particular a continuous Riemannian metric. -/
+def ContMDiffRiemannianMetric.toContinuousRiemannianMetric
+    (g : ContMDiffRiemannianMetric IB n F E) :
+    ContinuousRiemannianMetric F E where
+  inner := g.inner
+  symm := g.symm
+  pos := g.pos
+  isVonNBounded := g.isVonNBounded
+  continuous := g.contMDiff.continuous
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean]: Do you know you can write
```
    (g : ContMDiffRiemannianMetric IB n F E) : ContinuousRiemannianMetric F E :=
  { g with continuous := g.contMDiff.continuous }
```

File: Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean [hunk 4]
```diff
@@ -0,0 +1,200 @@
...
+/-- A smooth Riemannian metric defines in particular a Riemannian metric. -/
+def ContMDiffRiemannianMetric.toRiemannianMetric
+    (g : ContMDiffRiemannianMetric IB n F E) : RiemannianMetric E :=
+  g.toContinuousRiemannianMetric.toRiemannianMetric
+
+instance (g : ContMDiffRiemannianMetric IB n F E) :
+    letI : RiemannianBundle E := ⟨g.toRiemannianMetric⟩;
+    IsContMDiffRiemannianBundle IB n F E := by
+  letI : RiemannianBundle E := ⟨g.toRiemannianMetric⟩
+  exact ⟨g.inner, g.contMDiff, fun b v w ↦ rfl⟩
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean]: I’m curious: is there any reason to use tactics here? Why not
``` 
:=
  letI : RiemannianBundle E := ⟨g.toRiemannianMetric⟩
  ⟨g.inner, g.contMDiff, fun _ _ _ ↦ rfl⟩
```
especially since you use a term mode `letI` on the previous line

File: Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean [hunk 5]
```diff
@@ -0,0 +1,200 @@
...
+  isVonNBounded := g.isVonNBounded
+  continuous := g.contMDiff.continuous
+
+/-- A smooth Riemannian metric defines in particular a Riemannian metric. -/
+def ContMDiffRiemannianMetric.toRiemannianMetric
+    (g : ContMDiffRiemannianMetric IB n F E) : RiemannianMetric E :=
+  g.toContinuousRiemannianMetric.toRiemannianMetric
+
+instance (g : ContMDiffRiemannianMetric IB n F E) :
+    letI : RiemannianBundle E := ⟨g.toRiemannianMetric⟩;
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean]: This `;` does nothing.

File: Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean [hunk 6]
```diff
@@ -0,0 +1,200 @@
...
+    ContMDiffWithinAt IM 𝓘(ℝ) n (fun m ↦ ⟪v m, w m⟫) s x := by
+  rcases h.exists_contMDiff with ⟨g, g_smooth, hg⟩
+  have hf : ContMDiffWithinAt IM IB n b s x := by
+    simp only [contMDiffWithinAt_totalSpace] at hv
+    exact hv.1
+  simp only [hg]
+  have : ContMDiffWithinAt IM (IB.prod 𝓘(ℝ)) n
+      (fun m ↦ TotalSpace.mk' ℝ (E := Bundle.Trivial B ℝ) (b m) (g (b m) (v m) (w m))) s x := by
+    apply ContMDiffWithinAt.clm_bundle_apply₂ (F₁ := F) (F₂ := F)
+    · exact ContMDiffAt.comp_contMDiffWithinAt x g_smooth.contMDiffAt hf
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean]: This line seems very slow but I don’t know whether we can do anything about it.

File: Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean [hunk 7]
```diff
@@ -0,0 +1,200 @@
...
+
+/-- A trivial vector bundle, in which the model fiber has a scalar product,
+is a Riemannian bundle. -/
+instance : IsContMDiffRiemannianBundle IB n F₁ (Bundle.Trivial B F₁) := by
+  refine ⟨fun x ↦ innerSL ℝ, fun x ↦ ?_, fun x v w ↦ rfl⟩
+  simp only [contMDiffAt_section]
+  convert contMDiffAt_const (c := innerSL ℝ)
+  ext v w
+  simp [hom_trivializationAt_apply, inCoordinates, Trivialization.linearMapAt_apply,
+    Trivial.trivialization_symm_apply B F₁]
```
Comment (PatrickMassot) [inline Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean]: Do you understand why `Trivial.trivialization_symm_apply` does not apply without that last line?

**Review by PatrickMassot — COMMENTED** [review]
bors d+

File: Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean (hunk 6 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean]: That's weird, it's not slow at all on my pretty low-end laptop.

File: Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean (hunk 7 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/VectorBundle/Riemannian.lean]: No, I don't understand. I made several experiments to try to find a lemma that would apply without any help, to no avail. Probably a weird elaboration order issue.
